US07517875B2
After dissolving 4-[(4-nitro-1H-benzimidazol-2-ylamino)-methyl]-piperidine-1-carboxylic acid tert-butyl ester (13 mg) in methanol (1 ml), a 4N hydrogen chloride-1,4-dioxane solution (1 ml) was added and the mixture was stirred at 60° C. for 1 hour. The solvent was distilled off under reduced pressure, aqueous sodium hydroxide and dichloromethane were added to the obtained residue, and extraction was performed with dichloromethane. The solvent was distilled off under reduced pressure to obtain (4-nitro-1H-benzimidazol-2-yl)-piperidin-4-ylmethyl-amine. The compound was identified by LC-MS.

reactant | 4-[(4-nitro-1H-benzimidazol-2-ylamino)-methyl]-piperidine-1-carboxylic acid tert-butyl ester | 13 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC1=NC2=C(N1)C=CC=C2[N+](=O)[O-] | C18H25N5O4
reactant | hydrogen chloride-1,4-dioxane | 4N, 1 ml | O1CCOCC1.Cl
solvent | methanol | 1 ml | CO | CH4O
product | (4-nitro-1H-benzimidazol-2-yl)-piperidin-4-ylmethyl-amine | [N+](=O)([O-])C1=CC=CC=2NC(=NC21)NCC2CCNCC2 | C13H17N5O2
